Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
blue dye / sunflower seed / pumpkin / CT dye
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 
Ms. ___ is a ___ female with hypertension,
hyperlipidemia, endometrial cancer, and metastatic triple
negative breast cancer currently on Eribulin directly admitted
today from clinic for pain control and assessment of disease
progression. 

Ms. ___ presented to her clinic appointment today after
missing a number of appointments. She has apparently missed
appointments due to the death of her ___ y/o granddaughter, which
has been extremely traumatic for the family. On presentation to
clinic she was in significant pain, which is no longer well
controlled on her home oxycodone. She also appeared to have lost
a significant amount of weight. She was therefore sent for 
direct
admission by her Oncologist Dr. ___ pain control and CT
torso to assess for disease progression.

She states that since her last chemo dose she has been feeling
progressively more unwell. She has had increasing pain in her
back and sides over her lower ribs. She describes it as a muscle
pain, which hurts mostly when she moves or walks. The pain has
become so debilitating that she cannot stand or walk for more
than a few minutes. The pain is mostly aching, but sometimes
becomes "stabbing like a knife." She has no pain in her spine or
legs. She has been taking 2.5mg oxycodone every 4 hours at home,
which helps but is not sufficient.

Bedsides her pain, she has also become increasingly fatigued and
has had a decreased appetite. She reports a >40 lb weight loss
over the past year, and feels she has likely lost more over the
past few weeks. Despite the weight loss she also reports her
abdomen has become more distended. She also endorses a cough
productive of clear-white sputum. Her cough at times causes her
to wheeze. She denies N/V/D, she does endorse constipation for
which she takes Colace and senna. Her last BM was yesterday. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: Stage 1a, Grade 1 endometrial cancer, On ___, she 
underwent total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy
- ___: The patient had a right breast biopsy that revealed 
a Gr 1 invasive ductal carcinoma and lymph node dissection 
showed metastatic carcinoma involving 5 of 9 lymph nodes. Tumor 
was estrogen receptor negative, progesterone receptor negative 
and HER-2 negative and a right frontal falcine metastases.
- ___: Partial mastectomy with lymphadenectomy and revision 
right mastectomy.
- ___: Revision surgery revealed a 20-mm tumor, grade 3, 
ER/PR negative, HER-2 negative.
- ___: FDG PET showed multiple lung lesions and a vertebral 
body lesion concerning for metastatic disease, low-level FDG 
activity in approximately 1.4 cm left breast density containing 
a clip, incidental finding of new opacification of the right 
maxillary sinus. The chest findings were as follows:  A 2.2 cm 
right upper lobe mass with a max SUV of 18.1, a 1.7 cm superior 
right lower lobe mass, SUV max 14, then a 6 mm left upper lobe 
nodule and a 1.6 cm right lower lobe mass and another 1.4 cm 
left.
- ___: The patient then had a lung CT-guided biopsy that 
showed a recurrence of the triple negative breast cancer.
- ___: XRT R breast at ___, 39.9Gy to R breast, 
axillary nodes, supraclavicular nodes, 5Gy surgical boost.
- ___: Xeloda
- ___: XRT to T7-T9 20 Gy
- ___: Protocol ___ with Nivolumab for 6 
cycles.
- ___: New pathologic right hip fracture s/p 1 fraction XRT 
at ___
- ___: C1D1 Eribulin

PAST MEDICAL HISTORY:
- Metastatic Breast Cancer, triple-negative, as above
- Endometrial Cancer s/p TAH-BSO
- Hypertension
- Hyperlipidemia
- Asthma
- Psoriasis
- Falcine Meningioma
- Cerebellar Stroke
 
Social History:
___
Family History:
Mother died of ___ disease. Brother with multiple 
medical issues, including heart and kidney disease. She has 2 
children. No known family history of malignancy.
 
Physical Exam:
24 HR Data (last updated ___ @ 817)
    Temp: 97.6 (Tm 98.1), BP: 161/106 (150-163/6-106), HR: 96
(86-102), RR: 18, O2 sat: 93% (93-96), O2 delivery: Ra, Wt: 
149.5
lb/67.81 kg  
GENERAL: Sleeping comfortably
HEENT: NC, AT
CV: irregular rhythm, regular rate, no M/R/G
CHEST:  CTAB, breathing comfortably on room air
ABDOMEN:  Protuberant, soft, non-tender
EXT: WWP, no edema
 
Pertinent Results:
CT A/P ___

FINDINGS:  
  
LOWER CHEST: Please refer to separate report of CT chest 
performed on the same 
day for description of the thoracic findings. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogeneous attenuation 
throughout. 
Interval increase in size and number of hypodense lesions in the 
liver 
consistent with metastatic disease.  Of note, the largest in 
segment IV of the 
liver measures 5.5 x 5.6 cm, previously measuring 5.7 x 2.8 cm.  
There is no 
evidence of intrahepatic or extrahepatic biliary dilatation. The 
gallbladder 
is within normal limits. 
  
PANCREAS: The pancreas is atrophic, without evidence of focal 
lesions within 
the limitations of an unenhanced scan. There is no pancreatic 
ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: The spleen is mildly enlarged measuring 13.9 cm with 
normal 
attenuation throughout, without evidence of focal lesions. 
  
ADRENALS: The right adrenal gland is normal in size and shape.  
6 mm left 
adrenal nodule is unchanged from prior. 
  
URINARY: The kidneys are of normal and symmetric size.  There is 
no evidence 
of focal renal lesions within the limitations of an unenhanced 
scan. There is 
no hydronephrosis. There is a 3 mm nonobstructing stone in the 
mid pole of the 
left kidney, similar to prior.  A 4 mm nonobstructing stone in 
the right lower 
pole is also similar to prior (3; 73).  there is no perinephric 
abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable. Small bowel loops 
demonstrate 
normal caliber and wall thickness throughout.  Diverticulosis of 
the sigmoid 
colon is noted, without evidence of wall thickening and fat 
stranding. The 
appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The uterus is not visualized. No adnexal 
abnormality is 
seen. 
  
LYMPH NODES: Interval new gastrohepatic lymph node measures 0.9 
x 1.5 cm (3; 
51).  Another enlarged gastrohepatic lymph node measuring 1.2 x 
1.5 cm is 
similar to prior (3; 50).  Prominent porta hepatic lymph node 
measuring 1.0 x 
2.7 cm is also similar to prior.  No mesenteric lymphadenopathy. 

  
Interval increase in right pelvic lymph node measuring 0.8 cm in 
short axis, 
previously measuring 0.5 cm (3; 99).  No inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm. Extensive 
atherosclerotic 
disease is noted. 
  
BONES: There is increased callus formation around the chronic 
right inferior 
ramus fracture, likely pathologic.  Mixed sclerotic and lytic 
appearance of 
the T9 and T10 vertebral bodies are again demonstrated similar 
to prior.  
Chronic compression fracture of T8 is again demonstrated. 
  
SOFT TISSUES: An umbilical hernia containing fat is noted. 
  
IMPRESSION: 
  
  
1. Interval increase in size and number of multiple hypodense 
lesions within 
the liver consistent with progression of metastatic disease. 
2. New 0.9 cm gastrohepatic lymph node.  Interval mild increase 
in size of a 
0.8 cm right pelvic lymph node is demonstrated. 
3. Increased callus formation around the chronic right inferior 
ramus 
pathologic fracture. 
4. Bilateral nonobstructing renal stones measuring up to 4 mm. 
5. Mildly enlarged spleen. 

CT Chest ___

FINDINGS:  
  
HEART AND VASCULATURE: Mild cardiomegaly.  Trace pericardial 
effusion.  Mild 
calcified coronary atherosclerosis.  The thoracic aorta is 
normal in caliber 
and mildly calcified.  The main pulmonary artery is normal in 
caliber. 
  
AXILLA, HILA, AND MEDIASTINUM: Mediastinal lymphadenopathy has 
increased since 
the prior examination.  A representative right lower 
paratracheal lymph node 
measures 1.9 cm, previously 0.9 cm.  An aortopulmonary window 
lymph node 
measures 1.4 cm, previously 0.9 cm.  A subcarinal lymph node 
measures 1.7 cm, 
previously 1.2 cm. 
  
PLEURAL SPACES: New small right pleural effusion.  No left 
pleural effusion.  
No pneumothorax. 
  
LUNGS/AIRWAYS: The airways are patent to the subsegmental level. 
 Variable 
changes in widespread pulmonary nodules, some decreased in size, 
some 
unchanged, and most increased in size.  A dominant mass in the 
right upper 
lobe has decreased in size, for example, measuring 4.5 x 4.1 cm, 
previously 
5.0 by 3.9 cm.  Abutting nodules in the right lower lobe have 
increased in 
size, for example, now appearing confluent and measuring 3.2 x 
2.0 cm, 
previously separate nodules measuring 1.3 x 1.0 cm and 1.4 x 1.3 
cm (series 4, 
image 144).  A representative left lower lobe pulmonary nodule 
measures 1.6 
cm, previously 1.0 cm (series 4, image 195).  A representative 
right upper 
lobe pulmonary nodule measures 2.0 cm, previously 1.5 cm (series 
4, image 52). 
  
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality. 
  
ABDOMEN: Please refer to separate report for same-day CT 
abdomen/pelvis for 
description of the abdominal findings. 
  
BONES: A presumed pathologic compression fracture of T8 with 
underlying 
sclerotic lesions is not significantly changed, with bulging of 
the posterior 
aspect of the vertebral body into the spinal canal causing at 
least mild 
spinal canal narrowing.  Increasingly conspicuous sclerosis in 
the T10 
vertebral body concerning for metastases.  Sclerosis in the T9 
vertebral body 
is not significantly changed but increased lucency in the 
lateral aspect of 
the vertebral body is concerning for an active malignant lesion. 

  
IMPRESSION: 
  
  
1. Increased size of mediastinal lymphadenopathy and 
predominantly increased 
size of widespread pulmonary nodules concerning for progression. 

2. Probably worsened osseous metastases at T9 and T10. 
3. A pathologic compression fracture at T8 is not significantly 
changed. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with metastatic triple 
negative breast cancer currently on treatment with eribulin 
admitted from clinic for pain control and imaging to assess for
disease progression.

# Metastatic Breast Cancer: 
She is currently undergoing treatment with Eribulin, s/p 4 
cycles (C4D1 ___. A CT torso (non-con due to contrast 
allergy) was performed and showed worsening of her metastatic 
disease in her lungs and liver. Radiation oncology was consulted 
for the patient's back pain, but did not feel any radiation was 
indicated at this time. They recommended she follow up with her 
previous radiation oncologist at ___ in ___ for the 
possibility of radiation in the future. 

# Pain control
On presentation she had severe pain in her posterolateral ribs 
limiting her mobility. She was seen by the ___ care team, 
who provided recommendations for medication titration. By the 
day of discharge her pain control was significantly improved on 
oxycontin 10mg Q12H, naproxen 500mg BID, acetaminophen 1000mg 
Q8H and oxycodone 2.5mg Q2H prn breakthrough pain. She was 
discharged on this regimen with scheduled follow up with 
palliative care. 

#Constipation
- senna 17.2 mg BID
- miralax daily
- bisacodyl suppository PRN

# Asthma
- albuterol inhaler

# Irregular rhythm
- EKG shows frequent PACs, no signs of atrial fibrillation

TRANSITIONAL ISSUES
#ERROR!
[] palliative care follow up scheduled for ___
[] requires follow up appointment with outpatient oncologist, 
Dr. ___ aware
[] may follow up with Dr. ___ team at ___ in 
___ for further Radiation Oncology needs

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
2. LORazepam 0.5 mg PO Q12H:PRN muscle spasm/anxiety/insomnia 
3. OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
4. Senna 8.6 mg PO BID:PRN constipation 
5. Docusate Sodium 100 mg PO BID 
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 

 
Discharge Medications:
1.  Bisacodyl 10 mg PR QHS:PRN Constipation - Third Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *bisacodyl 10 mg 1 suppository rectally at bedtime Disp #*12 
Suppository Refills:*0 
2.  Lidocaine 5% Patch 2 PTCH TD QPM 
RX *lidocaine [Aspercreme (lidocaine)] 4 % 2 patches to back 
once a day Disp #*24 Patch Refills:*0 
3.  Naproxen 500 mg PO Q12H  
4.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
RX *oxycodone [OxyContin] 10 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [ClearLax] 17 gram 1 packet by 
mouth once a day Disp #*30 Packet Refills:*0 
6.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl [Acid Control (ranitidine)] 150 mg 1 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0 
7.  Acetaminophen 1000 mg PO Q8H  
8.  Senna 17.2 mg PO BID  
9.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB  
10.  Docusate Sodium 100 mg PO BID  
11.  LORazepam 0.5 mg PO Q12H:PRN muscle spasm/anxiety/insomnia  

12.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Metastatic breast cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___!

You were admitted to the hospital for control of your worsening 
pain. You underwent a CT scan, which showed worsening of your 
known metastatic breast cancer. You were seen by the Palliative 
Care team, who helped to adjust your pain medications to better 
control your pain. They would like to follow up with you after 
your discharge, and an appointment has been scheduled for you 
next week. You were evaluated by the Physical Therapy team, who 
felt you would benefit from physical and occupational therapy at 
home. Your pain improved and you are now ready to be discharged 
home to continue your recovery.

We wish you the best of luck!

Your ___ Care Team
 
Followup Instructions:
___